US08202858B2
3,3-Dimethylbutyraldehyde (120 mg, 1.20 mmol) and triethylamine (to pH9) were added to a solution of [3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone dihydrochloride from Example E49 (585 mg, 1.09 mmol) in methanol/acetic acid (99:1, v/v, 20 ml) and the mixture was stirred at room temperature for 1 h. Sodium cyanoborohydride (103 mg, 1.30 mmol) was added and the mixture was stirred at room temperature for 18 h then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% methanol:90% dichloromethane) to yield (4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone, which was lyophilised from aqueous trifluoroacetic acid to give a white solid identified as the title compound (700 mg, 83%).

reactant | 3,3-Dimethylbutyraldehyde | 1.20 mmol, 120 mg | CC(CC=O)(C)C | C6H12O
reactant | triethylamine | pH9 | C(C)N(CC)CC | C6H15N
reactant | [3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone dihydrochloride | Cl.Cl.FC=1C=C(C=CC1OCCCN1CCNCC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2
reactant | Sodium cyanoborohydride | 1.30 mmol, 103 mg | C(#N)[BH3-].[Na+]
solvent | methanol acetic acid | 20 ml | CO.C(C)(=O)O
product | (4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone | CC(CCN1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F)(C)C | C31H41FN6O2
